US09260408B2
3-Bromo-5-((S)-2-methoxymethyl-pyrrolidin-1-ylmethyl)-pyridine
In analogy to the procedure described for the preparation of intermediates A-12 [B], (S)-2-(methoxymethyl)pyrrolidine was reacted with 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A]) in presence of NaH to give the title compound as a yellow oil. MS: 285.0, 286.9 (M+H+).

reactant | (S)-2-(methoxymethyl)pyrrolidine | COC[C@H]1NCCC1 | C6H13NO
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
product | 3-Bromo-5-((S)-2-methoxymethyl-pyrrolidin-1-ylmethyl)-pyridine | BrC=1C=NC=C(C1)CN1[C@@H](CCC1)COC | C12H17BrN2O
